US04183909
2.20 g (3.32 mmoles) of BOC-Trp-Nle-Asp-D-Phg-NH2 are treated with 25 ml of 4 n hydrochloric acid in dioxane in the presence of 1.20 ml (17 mmoles) of mercaptoethanol. After 15 minutes the solution is evaporated in vacuo, the residue is triturated with ether, and the solid is filtered off. 1.99 g (99.0%) of H-Trp-Nle-Asp-D-Phg-NH2.HCl are obtained; m.p.: 217°-221° C. (decomposition), Rf7 :0.35, [α]D :-54.2° (c: 1.0, in dimethyl formamide).

reactant | BOC-Trp-Nle-Asp-D-Phg-NH2 | 3.32 mmoles, 2.20 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C34H44N6O8
reactant | hydrochloric acid | Cl | ClH
reactant | mercaptoethanol | 17 mmoles, 1.20 ml | SC(C)O | C2H6OS
solvent | dioxane | O1CCOCC1 | C4H8O2
product | H-Trp-Nle-Asp-D-Phg-NH2.HCl | 1.99 g, 99.0% | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCC)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](C1=CC=CC=C1)C(=O)N.Cl | InChI=1S/C29H36N6O6.ClH/c1-2-3-12-22(33-27(39)20(30)14-18-16-32-21-13-8-7-11-19(18)21)28(40)34-23(15-24(36)37)29(41)35-25(26(31)38)17-9-5-4-6-10-17;/h4-11,13,16,20,22-23,25,32H,2-3,12,14-15,30H2,1H3,(H2,31,38)(H,33,39)(H,34,40)(H,35,41)(H,36,37);1H/t20-,22-,23-,25+;/m0./s1
